US07371743B2
(d) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzamide
Prepared analogously to Example 1f from 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine, TBTU and DIPEA in THF and purification of the residue by chromatography on silica gel.

reactant | 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoic acid | CC1(NC(N(C1)C1=C(C=C(C(=O)O)C=C1)C)=O)C | C13H16N2O3
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2C(OCCCC2)=O)C)=O)C=C1 | C22H23ClN4O3
